US03966748
Preparation of 4-(3,6-Dihydro-4-isoxazolyl-1(2H)-pyridyl)-4'-fluoro-butyrophenone
A 1.58 g. portion of 3,6-dihydro-α-(p-fluorophenyl)-4-(2-oxazolyl)-1(2H)-pyridinebutanol, prepared as described in Example 15, in 45 ml. of acetic acid is stirred at room temperature. A 30 ml. portion of chromic acid in acetic acid is added dropwise. The mixture is stirred for 2 hours and allowed to stand overnight. A few drops of methanol are added, the mixture is poured into ice water and neutralized with sodium carbonate. The mixture is extracted with ether. The ether extract is dried over magnesium sulfate, filtered and evaporated yielding an oil which solidifies. This solid is dissolved in ether, alcoholic HCl is added and the mixture is filtered. The solid is slurried in acetone, filtered and recrystallized twice from ethanol, m.p. 178°-178.5°C.

reactant | 3,6-dihydro-α-(p-fluorophenyl)-4-(2-oxazolyl)-1(2H)-pyridinebutanol | FC1=CC=C(C=C1)C(CCCN1CCC(=CC1)C=1OC=CN1)O | C18H21FN2O2
reactant | chromic acid | [Cr](=O)(=O)(O)O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | methanol | A few drops | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | 4-(3,6-Dihydro-4-isoxazolyl-1(2H)-pyridyl)-4'-fluoro-butyrophenone | O1N=C(C=C1)C=1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)F | C18H19FN2O2
